US07820672B2
d) 4-Bromo-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester
4-Amino-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester (2.04 g, 8.54 mmol) is suspended in a 4.8% solution of HBr in water (75 ml). After cooling to 0° C., a solution of sodium nitrite (1.23 g, 17.94 mmol) in water (30 ml) is slowly added during 20 minutes. After 30 minutes at 0° C., it is slowly added to a solution of copper(I) bromide (25.1 g, 175 mmol) in 48% HBr/H2O (75 ml), while the temperature is kept below 5° C. After the addition is complete, the suspension is stirred at RT for 2 hours and then at 85° C. for 5 minutes. After cooling to RT, the mixture is extracted with CH2Cl2/MeOH (95:5, 800 ml). The organic layer is washed with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated. Purification by FCC (hexane/EtOAc 4:1) affords the title compound. 1H NMR (DMSO, 400 MHz) δ 2.61 (s, 3H), 4.03 (s, 3H), 6.56 (s, 3H), 7.46 (d, J=9 Hz, 1H), 8.05 (d, J=9 Hz, 1H); ES-MS: 303 [M+H]+.

reactant | 4-Amino-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester | 8.54 mmol, 2.04 g | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)N)C | C11H11ClN2O2
reactant | HBr | Br | BrH
reactant | sodium nitrite | 17.94 mmol, 1.23 g | N(=O)[O-].[Na+]
solvent | water | 75 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | HBr H2O | 75 ml | Br.O
catalyst | copper(I) bromide | 175 mmol, 25.1 g | [Cu]Br
product | 4-Bromo-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)Br)C | C11H9BrClNO2
